US03998829
3α-Hydroxy-21-morpholinoacetoxymethyl-5α-pregnane-11,20-dione
3α-Hydroxy-21-iodoacetoxymethyl-5α-pregnane-11,20-dione (230 mg) in dry dichloromethane (25 ml) was treated with morpholine (1.0 ml) and the solution was stirred at room temperature for 30 minutes. The solution was diluted with dichloromethane, washed twice with water, dried over sodium sulphate and evaporated to a colourless gum (230 mg) which was purified by preparative t.l.c. in acetone/petrol 1:1. The main band was separated to give title compound (172 mg) as a white foam, [α]D + 79° (c 0.68).

reactant | 3α-Hydroxy-21-iodoacetoxymethyl-5α-pregnane-11,20-dione | 230 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CCOC(CI)=O)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C24H35IO5
reactant | morpholine | 1.0 ml | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3α-Hydroxy-21-morpholinoacetoxymethyl-5α-pregnane-11,20-dione | 172 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CCOC(CN5CCOCC5)=O)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C28H43NO6
